US03984467
1-[3-(Trifluoromethyl)phenyl]-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 2.3 g. sodium in 250 ml. dry acetone, 13.6 g. valeramidine hydrochloride, and 18.7 g. 3-(trifluoromethyl)phenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from acetonitrile 17.9 g. of the hydrochloride of 1-[3-(trifluoromethyl)phenyl]-3-(pentanimidoyl)urea; m.p. 167°-169°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 3-(trifluoromethyl)phenyl isocyanate | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-[3-(Trifluoromethyl)phenyl]-3-(pentanimidoyl)urea | FC(C=1C=C(C=CC1)NC(=O)NC(CCCC)=N)(F)F | C13H16F3N3O
